US08754100B2
2-[6-Methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine-8-carboxylic acid phenylamide
2-[6-Methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine-8-carboxylic acid obtained in Preparation Example 5-1 (25 mg) was dissolved in N,N-dimethylformamide (0.5 mL). Aniline (7.2 mg), 1-ethyl-3-(dimethylaminopropyl)carbodiimide hydrochloride (40.6 mg), 1-hydroxybenzotriazole (28.6 mg) and N,N-diisopropylethylamine (75.7 μL) were sequentially added and the mixture was stirred at room temperature for five hours. Ethyl acetate and water were added to the reaction solution, and the organic layer and the aqueous layer were separated. The aqueous layer was further extracted with ethyl acetate. The resulting organic layers were combined, sprayed with nitrogen gas and concentrated. The residue was purified by NH silica gel column chromatography to obtain the title compound (14.1 mg). The compound was further separated by CHIRALPAK™ IA (2 cm×25 cm; mobile phase:hexane:ethanol=50:50) to obtain the title compound with a retention time of 7.6 minutes (4.5 mg). The property values of the compound are as follows.

reactant | 2-[6-Methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine-8-carboxylic acid | COC1=C(C=CC(=N1)C1=NN2C(C(CCC2)C(=O)O)=N1)N1C=NC(=C1)C | C17H18N6O3
reactant | Aniline | 7.2 mg | NC1=CC=CC=C1 | C6H7N
reactant | 1-ethyl-3-(dimethylaminopropyl)carbodiimide hydrochloride | 40.6 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 28.6 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N-diisopropylethylamine | 75.7 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[6-Methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]-5,6,7,8-tetrahydro[1,2,4]triazolo[1,5-a]pyridine-8-carboxylic acid phenylamide | 14.1 mg | C1(=CC=CC=C1)NC(=O)C1C=2N(CCC1)N=C(N2)C2=NC(=C(C=C2)N2C=NC(=C2)C)OC | C23H23N7O2
